US06498159B1
22 ml hydrazine monohydrate was added to a mixture of 77 g dimethyl 4-(1H-1-pyrazolyl)phthalate and 500 ml ethanol, and heated under reflux for 6 hr. After cooling, the resulting precipitates were collected by filtration to give 36 g of 6-(1H-1-pyrazolyl)-1,4-phthalazine dione.

reactant | hydrazine monohydrate | 22 ml | O.NN
reactant | dimethyl 4-(1H-1-pyrazolyl)phthalate | 77 g | N1(N=CC=C1)C=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C13H12N2O4
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 6-(1H-1-pyrazolyl)-1,4-phthalazine dione | 36 g | N1(N=CC=C1)C=1C=C2C(N=NC(C2=CC1)=O)=O | C11H6N4O2
